US04703052
(i) 6-Bromo-2-chromanone
To a solution of 74.08 g (0.50 mole) 2-chromanone in 150 ml carbon disulfide at 0° C. was added dropwise over 15 minutes, 79.91 g (0.50 mole) bromine. Stirring was continued at 0° C. for ten minutes and at room temperature for 2 days. The resulting mixture was filtered, the crystals air dried to afford 96.8 g (85%) of colorless material, m.p. 103°-105° C. (2 crops).

reactant | 2-chromanone | 0.50 mole, 74.08 g | O1C(CCC2=CC=CC=C12)=O | C9H8O2
reactant | bromine | 0.50 mole, 79.91 g | BrBr | Br2
solvent | carbon disulfide | 150 ml | C(=S)=S | CS2
product | 6-Bromo-2-chromanone | 96.8 g, 85% | BrC=1C=C2CCC(OC2=CC1)=O | C9H7BrO2
